US04894458
Ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-ethoxyacrylate
A mixture of ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)acetate (5.02 g), ethyl orthoformate (4.29 g) and acetic anhydride (4.93 g) was stirred at 130° to 135° C. for 5 hours and then concentrated under reduced pressure to give the title compound (6.05 g) as red oil.

reactant | ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)acetate | 5.02 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1C)F)F | C12H11F3O3
reactant | ethyl orthoformate | 4.29 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 4.93 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-ethoxyacrylate | 6.05 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1C)F)F | C15H15F3O4
